US06677368B2
To a solution of 4-phenyl-1,3-dihydro-indol-2-one (41.9 mg, 0.20 mmol) and 3,5-dimethyl-4-(4-methyl-piperazine-1-carbonyl)-1H-pyrrole-2-carbaldehyde (49.9 mg, 0.20 mmol) in ethanol (1 mL) was added piperidine (0.1 mL). The reaction mixture was stirred at 70° C. for over-night. The solvent was evaporated and the residue was crystallized from EtOAc-hexanes to provide 3-[3,5-dimethyl-4-(4-methyl-piperazine-1-carbonyl)-1H-pyrrol-2-ylmethylene]-4-phenyl-1,3-dihydro-indol-2-one as a yellow solid (50 mg, 57%).

reactant | 4-phenyl-1,3-dihydro-indol-2-one | 0.20 mmol, 41.9 mg | C1(=CC=CC=C1)C1=C2CC(NC2=CC=C1)=O | C14H11NO
reactant | 3,5-dimethyl-4-(4-methyl-piperazine-1-carbonyl)-1H-pyrrole-2-carbaldehyde | 0.20 mmol, 49.9 mg | CC1=C(NC(=C1C(=O)N1CCN(CC1)C)C)C=O | C13H19N3O2
reactant | piperidine | 0.1 mL | N1CCCCC1 | C5H11N
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 3-[3,5-dimethyl-4-(4-methyl-piperazine-1-carbonyl)-1H-pyrrol-2-ylmethylene]-4-phenyl-1,3-dihydro-indol-2-one | 50 mg, 57% | CC1=C(NC(=C1C(=O)N1CCN(CC1)C)C)C=C1C(NC2=CC=CC(=C12)C1=CC=CC=C1)=O | C27H28N4O2
